Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
quinine / latex
 
Attending: ___.
 
Chief Complaint:
abdominal/back/chest pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ with no significant PMHx who presents w/ 
upper/mid back pain since night ___. Around 9pm, upper back and 
L shoulder pain, started under L flank/ribcage and traveled up 
her back and down L shoulder. At 2am she woke up with tightness 
in her upper abdomen that moved to L chest and L back. Burning 
pain worse with inspiration across LUQ and RUQ. She had some 
palpitations but has not experienced any shortness of breath or 
dyspnea on exertion. She noted that ___ she did experience 
some right calf cramping after exercise, but pain did not 
persist. She has been on long term OCPs, h/o right leg 
lymphedema of unknown cause to RLE diagnosed in ___ at the 
___. She denies N/V/F/C, recent travel/long car rides, 
h/o blood clots, h/o malignancy and family history is notable 
for sickle cell trait in her mother and sickle cell disease in 
her mother's sister.

In ED:
Vitals: 97.4 66 156/100  18 100% RA
Meds given: famotidine, GI cocktail, heparin GTT at 8 am.
Labs notable for: DDimer 1003, LFTs WNL, Chem 7 WNL, Troponin 
<0.01, CBC WNL, ___ 12.0, PTT 25.4, INR 1.1.

CXR: Cardiomediastinal silhouette WNL. Lungs clear. No pleural 
effusion or pneumothorax. IMPRESSION: No acute intrathoracic 
abnormality 

CTA: Nonocclusive PEs present in segmental and subsegmental 
branches of RUL and subsegmental branches of RLL. No evidence of 
pulmonary infarction or R heart strain.

On the floor, patient is comfortable, saturating 100% on room 
air and VSS. 

 
Past Medical History:
Lymphedema: Rt ___- has had it since age ___. Diagnosis of 
lymphedema was made in ___ after contrast study.
Dysmennorhea: On ___. Has been on OCPs since her teenage 
years.
Submucosal leiomyoma of uterus
herpes pregenitalis
Congenital dislocation of the hip  

 
Social History:
___
Family History:
-Father Alive ___ 
-___ Grandmother  ___ - Unknown Type 
-Mother Alive ___ - Unknown Type; Hemoglobinopathy: Sickle 
Trait; Hyperlipidemia 
-Sister Alive iron def anemia  
 
Physical Exam:
ON ADMISSION
Vital Signs: 98.2 70 137/91 16 100% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Good air entry and clear to auscultation bilaterally, no 
wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait deferred

ON DISCHARGE
Vital Signs:  98.4  131/72   74  18 100%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL, 
neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Good air entry and clear to auscultation bilaterally, no 
wheezes, rales, rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait deferred
 
Pertinent Results:
PERTINENT LAB RESULTS
___ 05:10AM BLOOD WBC-4.2 RBC-4.41 Hgb-12.4 Hct-38.1 MCV-86 
MCH-28.1 MCHC-32.5 RDW-13.5 RDWSD-42.8 Plt ___
___ 07:30AM BLOOD ___ PTT-25.4 ___
___ 05:10AM BLOOD Glucose-95 UreaN-9 Creat-1.1 Na-136 K-4.2 
Cl-101 HCO3-23 AnGap-16
___ 05:10AM BLOOD ALT-12 AST-19 AlkPhos-57 TotBili-0.3
___ 05:10AM BLOOD Lipase-24
___ 05:10AM BLOOD cTropnT-<0.01
___ 05:10AM BLOOD proBNP-48
___ 05:10AM BLOOD Albumin-4.3 Calcium-11.0* Phos-5.0* 
Mg-1.8
___ 05:10AM BLOOD D-Dimer-1003*

PERTINENT IMAGING

___ LENIs
IMPRESSION:  
No evidence of deep venous thrombosis in the right or left lower 
extremity 
veins. 
  
___ CTA
IMPRESSION:  
Nonocclusive pulmonary emboli in the segmental and subsegmental 
branches of the right upper lobe and the subsegmental branches 
of the right lower lobe. There is no evidence of pulmonary 
infarction or right heart strain. 

 
Brief Hospital Course:
___ w/PMH of R leg lymphedema and OCP use presenting with 1 day 
of abdominal and back pain. D-Dimer was elevated and 
CTA-confirmed right sided PEs. Patient was started on heparin 
drip in ED and transferred to floor where she was started on 
lovenox. She was discharged on apixaban. 

#) Multiple pulmonary emoboli. Most likely emboli provoked in 
setting of chronic lymphedema and long term OCP use. Patient's 
mother also has sickle cell trait, but patient does not recall 
if she has been screened. Patient was started on heparin drip in 
ED, and transitioned to lovenox on the floor. She is going to be 
discharged on apixaban (insurance will cover her) and off of 
birth control pills. Risk of OCPs discussed with patient, and 
patient agrees to stopping birth control. She was instructed to 
use barrier contraception until she discusses contraception with 
her PCP. Team was in touch with her primary care physician who 
she ___ follow up with on ___ at 1:40 pm. At___ 
hematology was also FYI'd and will see patient at the discretion 
of the PCP. ___ of Right ___ was negative (prelim read) on this 
admission.

#) Dysmenorrhea: Treated with estrogen/progesterone containing 
birth control. Patient agrees with stopping OCPs and will 
discuss other options with her PCP.

#) Lymphedema: Stable RLE lymphedema since age ___. No treatment 
during hospitalization. Negative right ___ US.

TRANSITIONAL ISSUES
===================
[]patient being discharged on apixaban for a minimum of 3 to 6 
months. Total treatment time can be determined by outpatient 
PCP. She will be on 10 mg BID x 7 days; and then transition to 5 
mg BID ongoing.
[]patient is being discharged off of her estrogen containing 
OCPs. Discussed with patient other options of starting 
progesterone-only OCPs for dysmenorrhea.
[]At___ hematology/oncology aware of patient during 
hospitalization and will see patient in outpatient setting at 
discretion of ___ PCP.
# CODE: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. ___ FE ___ (28) (norethindrone-e.estradiol-iron) 1 mg-20 
mcg (21)/75 mg (7) oral DAILY 
2. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 

 
Discharge Medications:
1. Apixaban 10 mg PO BID 
Please take for the first 7 days ___ to ___ 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0
2. Apixaban 5 mg PO BID 
Start on ___, ongoing 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0
3. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
Provoked Pulmonary embolism

SECONDARY DIAGNOSIS
===================
Chronic Right leg lymphedema 
Dysmenorrhea 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___,

You were admitted to ___ for 
abdominal and chest pain and were found to have pulmonary emboli 
(clots in your lung). You were first treated with IV blood 
thinner medication (heparin) and now you are on oral medications 
to help thin your blood and prevent clot recurrence. Your oral 
contraceptive pills may have contributed to the clots in your 
lung.  You should stop taking these medications and you should 
speak with your primary care physician regarding progesterone 
only options for your menstrual symptoms as these do not 
contribute to blood clots.

We were in touch with your primary care provider during your 
stay. Please follow up with Dr. ___ on ___ at 
1:40PM. You will discuss at this time whether you need to see a 
blood specialist (a hematologist).

Your new blood thinner is called apixaban (also called Eliquis). 
 It is very important that you take this medication every 12 
hours.  You should take 10mg (2 pills) twice a day for the first 
7 days (Day #1 ___, to be taken through ___.  Your 
first dose of apixaban, 10 mg is due at 10:30 pm ___.  
Again, It is extremely important for you to take the medication 
every 12 hours.  After the first 7 days of treatment, please 
take 5 mg every 12 hours ongoing beginning ___.

It was a pleasure taking part in your care!

We wish you a speedy recovery and all the best,

Your ___ Care Team
 
Followup Instructions:
___